US07932277B2
(1R,2S)-ethyl 1-(tert-butoxycarbonylamino)-2-cyclopropylcyclopropanecarboxylate (0.578 g, 2.15 mmol), was dissolved in 10 mL mixed solvent of THF:MeOH:water (2:2:1 v/v), followed by addition of LiOH—H2O (0.270 g, 6.44 mmol) in one portion at rt. Stirred it at rt over 2 days. After removal of most solvent, the white solid reaction residue was taken up in water (30 mL) and washed with ether (30 mL). The aqueous layer was then acidified with 1N HCl until pH reached 2. It was then extracted with EtOAc (2×50 mL), and the combined organic extract was washed with brine and dried over Na2SO4, giving the acid, (1R,2S)-1-(tert-butoxycarbonylamino)-2-cyclopropylcyclopropane carboxylic acid, as a white fluffy solid (0.48 g, 93%).

reactant | (1R,2S)-ethyl 1-(tert-butoxycarbonylamino)-2-cyclopropylcyclopropanecarboxylate | 2.15 mmol, 0.578 g | C(C)(C)(C)OC(=O)N[C@]1([C@@H](C1)C1CC1)C(=O)OCC | C14H23NO4
reactant | THF MeOH water | C1CCOC1.CO.O
reactant | LiOH—H2O | 6.44 mmol, 0.270 g | O[Li].O
solvent | water | 30 mL | O | H2O
product | (1R,2S)-1-(tert-butoxycarbonylamino)-2-cyclopropylcyclopropane carboxylic acid | C(C)(C)(C)OC(=O)N[C@]1([C@@H](C1)C1CC1)C(=O)O | C12H19NO4
